US07737152B2
2-Chloro-6-(2-chlorophenyl-oxy)-pyrazine, CJS 489(A)
Using Method DD with 2,6-dichloropyrazine (250 mg, 1.69 mmol) and 2-chlorophenol (193 μL, 1.86 mmol, d=1.24 g/mL), and purification by column chromatography (AcOEt:cyclohexane, 1:1), the title compound was obtained (363 mg). Yield: 89%. 1H NMR (250 MHz, DMSO-d6) δ 7.37-7.39 (m, 1H, Harom 4), 7.46-7.47 (m, 2H, Harom 5+6), 7.64 (d, 1H, Harom 3, J=8.2 Hz), 8.55 (s, 1H, HPz 5), 8.65 (s, 1H, HPz 3). m/z: 240.0 [(M)+, calcd for C10H6Cl2N2O 240.0].

reactant | 2,6-dichloropyrazine | 1.69 mmol, 250 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-chlorophenol | 1.86 mmol, 193 μL | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 2-Chloro-6-(2-chlorophenyl-oxy)-pyrazine | Yield: 89% | ClC1=NC(=CN=C1)OC1=C(C=CC=C1)Cl | C10H6Cl2N2O
